US05134152
(2R*,3S*,4S*)-2-(4-Chlorophenyl)-3,4-dimethyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxetane
28 mg (1.003 mmole) of sodium hydride (as a 60% w/w dispersion in mineral oil) was added, whilst ice-cooling, to a solution of 200 mg (0.59 mmole) of (2R*,3S*,4S*)-2-(4-chlorophenyl)-3-methyl-4-methanesulfonyloxy-1-(1H-1,2,4-triazol-1-yl)pentanol in 5 ml of dimethylformamide, and the resulting mixture was stirred for 1.5 hours. At the end of this time, the reaction mixture was treated in a similar manner to that described in Example 60, to afford 32.3 mg (yield 19.7%) of the title compound as an oil.

reactant | sodium hydride | 1.003 mmole, 28 mg | [H-].[Na+]
reactant | (2R*,3S*,4S*)-2-(4-chlorophenyl)-3-methyl-4-methanesulfonyloxy-1-(1H-1,2,4-triazol-1-yl)pentanol | 0.59 mmole, 200 mg | ClC1=CC=C(C=C1)[C@H](C(O)N1N=CN=C1)[C@@H]([C@H](C)OS(=O)(=O)C)C | C15H20ClN3O4S
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (2R*,3S*,4S*)-2-(4-Chlorophenyl)-3,4-dimethyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxetane | 32.3 mg, yield 19.7% | ClC1=CC=C(C=C1)[C@@]1(O[C@H]([C@@H]1C)C)CN1N=CN=C1 | C14H16ClN3O
